US06281227B1
A. 3-(S)-Amino-1-(4-aminoquinazolin-7-ylmethyl)pyrrolidin-2-one
3-(S)-Amino-1-(4-Aminoquinazolin-7-ylmethyl)pyrrolidin-2-one hydrochloride (600 mg, 1.82 mmol) is chromatographed on silica with 12% methanol/2% ammonium hydroxide (28% aqueous)/86% dichloromethane, and the product fractions combined and concentrated to give the free base as a pale yellow powder (360 mg, 1.4 mmol).

reactant | 3-(S)-Amino-1-(4-Aminoquinazolin-7-ylmethyl)pyrrolidin-2-one hydrochloride | 1.82 mmol, 600 mg | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(S)-Amino-1-(4-aminoquinazolin-7-ylmethyl)pyrrolidin-2-one | 1.4 mmol, 360 mg | N[C@@H]1C(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O | C13H15N5O
